US08497264B2
The (S)-(9-amino-2-bromo-7-iodo-9H-xanthen-9-yl)methanol (3.84 g, 8.89 mmol) was dissolved in THF (200 mL). The solution was cooled to 0° C., and TEA (1.425 mL, 10.22 mmol) and 2-chloroacetyl chloride (0.707 mL, 9.07 mmol) were added. The reaction was allowed to warm naturally to RT. After 14 h, the reaction was concentrated. The residue was taken up in aqueous 1 M Na2CO3 (50 mL) and the aqueous phase was extracted with 7.5% MeOH-DCM (3×133 mL). The organics were combined, washed with aqueous 1 M Na2CO3 (30 mL), dried over sodium sulfate and concentrated. The residue was dissolved in THF (100 mL) and aqueous 1 M Na2CO3 (15 mL) was added. The reaction was concentrated. The residue was taken up in 5% MeOH-dcm (400 mL) and the organic phase was washed with dilute brine (40 mL), dried over sodium sulfate concentrated to afford crude (S)—N-(2-bromo-9-(hydroxymethyl)-7-iodo-9H-xanthen-9-yl)-2-chloroacetamide, which was used in the next step without further purification.

reactant | (S)-(9-amino-2-bromo-7-iodo-9H-xanthen-9-yl)methanol | 8.89 mmol, 3.84 g | N[C@@]1(C2=CC(=CC=C2OC=2C=CC(=CC12)Br)I)CO | C14H11BrINO2
reactant | 2-chloroacetyl chloride | 9.07 mmol, 0.707 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (S)—N-(2-bromo-9-(hydroxymethyl)-7-iodo-9H-xanthen-9-yl)-2-chloroacetamide | BrC1=CC=2[C@](C3=CC(=CC=C3OC2C=C1)I)(CO)NC(CCl)=O | C16H12BrClINO3
